US04866199
Synthesis of (S)-4-(5'-methyloctoxy)benzoic acid 4-n-octylphenyl ester
The procedure of Example 8 was followed except that the (S)-4-(4'-methylheptyloxy)benzoic acid was replaced by (S)-4-(5'-methyloctoxy)benzoic acid to thereby give the title compound.

reactant | (S)-4-(4'-methylheptyloxy)benzoic acid | C[C@H](CCCOC1=CC=C(C(=O)O)C=C1)CCC | C15H22O3
reactant | (S)-4-(5'-methyloctoxy)benzoic acid | C[C@H](CCCCOC1=CC=C(C(=O)O)C=C1)CCC | C16H24O3
product | (S)-4-(5'-methyloctoxy)benzoic acid 4-n-octylphenyl ester | C(CCCCCCC)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCC[C@H](CCC)C)=O | C30H44O3
